US07122672B2
This Example Illustrates the Preparation of 2-(6-quinolinyloxy)-N-(1-hydroxy-4-methylpent-2-yn-4-yl) butyramide (Compound No. 10 of Table1)
2-(6-Quinolinyloxy)-N-(1-tert.butyldimethylsilyloxy-4-methylpent-2-yn-4-yl)butyramide (0.58 g) in tetrahydrofuran (10 ml) was stirred at 3–5° C. and a solution of tetra n-butylammonium fluoride (2.64 ml of 1M solution in tetrahydrofuran) was added dropwise over 5 minutes. On completion of addition, the mixture was stirred for 0.5 hour at 0° C., 0.75 hour at ambient temperature then stored for 18 hours. The solvent was evaporated under reduced pressure and the residue partitioned between ethyl acetate and aqueous ammonium chloride. The organic phase was separated, washed with aqueous ammonium chloride, brine, dried over magnesium sulphate and evaporated under reduced pressure to give a gum that was fractionated by chromatography (silica; hexane/ethyl acetate, 1:2 by volume) to give the required product as a colourless glass (0.30 g).

reactant | 2-(6-Quinolinyloxy)-N-(1-tert.butyldimethylsilyloxy-4-methylpent-2-yn-4-yl)butyramide | 0.58 g | N1=CC=CC2=CC(=CC=C12)OC(C(=O)NC(C#CC(C(C)(C)C)O[SiH](C)C)(C)C)CC | C25H36N2O3Si
reactant | tetra n-butylammonium fluoride | 1M, 2.64 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(6-quinolinyloxy)-N-(1-hydroxy-4-methylpent-2-yn-4-yl) butyramide | 0.30 g | N1=CC=CC2=CC(=CC=C12)OC(C(=O)NC(C#CCO)(C)C)CC | C19H22N2O3
